US06174459B1
A mixture of 531 g (1170 mmol) of 2-(1,3-dioxane-2-yl)ethyltriphenylphosphonium bromide and 4.0 l of THF was cooled to −30° C. under a nitrogen gas stream with a refrigeration medium. To this mixture, 121 g (1080 mmol) of t-BuOK was added, followed by stirring for 1 hour. Furthermore, 1 l of a THF solution containing 200 g (899 mmol) of 4-(trans-4-propylcyclohexyl)cyclohexanone was added dropwise to the mixture, while the temperature was maintained at −30° C. or less. After the dropping, the reaction temperature was slowly raised to room temperature, and the solution was further stirred for 5 hours. Next, the reaction solution was filtered through Celite, and the solvent was then distilled off under reduced pressure. The resulting residue was purified through silica gel column chromatography (a developing solvent: a mixed solvent of toluene/ethyl acetate=9/1 (v/v)) to obtain 277 g of crude 2-(2-(4-(trans-4-propylcyclohexyl)cyclohexylidene)ethyl)-1,3-dioxane.

reactant | 2-(1,3-dioxane-2-yl)ethyltriphenylphosphonium bromide | 1170 mmol, 531 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 1080 mmol, 121 g | CC(C)(C)[O-].[K+]
reactant | 4-(trans-4-propylcyclohexyl)cyclohexanone | 899 mmol, 200 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C15H26O
solvent | THF | 1 l | C1CCOC1 | C4H8O
solvent | THF | 4.0 l | C1CCOC1 | C4H8O
product | 2-(2-(4-(trans-4-propylcyclohexyl)cyclohexylidene)ethyl)-1,3-dioxane | 277 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=CCC1OCCCO1 | C21H36O2
